US07737166B2
tert-Butyl [(3S)-3-methylpyrrolidin-3-yl]carbamate (I-345)
tert-Butyl {(3S)-3-methyl-1-[(1R)-1-phenylethyl]pyrrolidin-3-yl}carbamate (I-344) (406 mg, 1.33 mmol) was dissolved in 1,4-dioxane (13 ml), then palladium hydroxide catalyst (20 wt. % on carbon) (100 mg) was added, followed by stirring in an oil bath at 50° C. Under hydrogen atmosphere far 5 hours. The reaction liquid was filtered, and the filtrate was concentrated under reduced pressure to obtain the entitled compound (266 mg, 100%) as a colorless oily substance.

reactant | tert-Butyl {(3S)-3-methyl-1-[(1R)-1-phenylethyl]pyrrolidin-3-yl}carbamate | 1.33 mmol, 406 mg | C[C@]1(CN(CC1)[C@H](C)C1=CC=CC=C1)NC(OC(C)(C)C)=O | C18H28N2O2
solvent | 1,4-dioxane | 13 ml | O1CCOCC1 | C4H8O2
catalyst | palladium hydroxide | 100 mg | [OH-].[Pd+2].[OH-]
product | tert-Butyl [(3S)-3-methylpyrrolidin-3-yl]carbamate | 266 mg, 100% | C[C@]1(CNCC1)NC(OC(C)(C)C)=O | C10H20N2O2
